US03979513
1'-Allyl-4-hydroxy-9,10-dihydroanthracene-9-spiro-4'-piperidine (0.2 g.) and benzoic anhydride (0.4 g.) in pyridine (2 ml.) are heated on the steam bath for 2 hours. The reaction mixture is poured into water, basified (Na2CO3), and extracted with ethyl acetate. The ethyl acetate extract is washed with water and with brine, dried (MgSO4), and evaporated to give an oil which is treated with ethereal hydrogen chloride. The solid thus obtained is crystallised from isopropanol-ether to give 1'-allyl-4-benzoyloxy-9,10-dihydroanthracene-9-spiro-4'-piperidine hydrochloride, m.p. 206°-209°C.

reactant | 1'-Allyl-4-hydroxy-9,10-dihydroanthracene-9-spiro-4'-piperidine | 0.2 g | C(C=C)N1CCC2(CC1)C1=CC=CC=C1CC=1C(=CC=CC12)O | C21H23NO
reactant | benzoic anhydride | 0.4 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1'-allyl-4-benzoyloxy-9,10-dihydroanthracene-9-spiro-4'-piperidine hydrochloride | Cl.C(C=C)N1CCC2(CC1)C1=CC=CC=C1CC=1C(=CC=CC12)OC(C1=CC=CC=C1)=O | InChI=1S/C28H27NO2.ClH/c1-2-17-29-18-15-28(16-19-29)24-12-7-6-11-22(24)20-23-25(28)13-8-14-26(23)31-27(30)21-9-4-3-5-10-21;/h2-14H,1,15-20H2;1H
